US07582625B2
4c) (R)-2-[4-(1-carboxymethyl-piperidin-4-yl)-piperazin-1-yl]-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 96 mg (4.00 mmol) LiOH in 5 mL water was added at RT to a solution of 1.77 g (2.46 mmol) of (R)-2-[4-(1-ethoxycarbonylmethyl-piperidin-4-yl)-piperazin-1-yl]-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 20 mL THF and the reaction solution was stirred overnight at RT. The mixture was evaporated down i.vac., the residue was taken up in 10 mL water and the aqueous phase was washed with 10 mL EtOAc. The aqueous phase was combined with 4 mL of 1 M HCl and this was again washed with 10 mL EtOAc. The aqueous phase was concentrated by evaporation i. vac. and dried. The product which contained LiCl was further reacted without purification.

reactant | LiOH | 4.00 mmol, 96 mg | [Li+].[OH-]
reactant | (R)-2-[4-(1-ethoxycarbonylmethyl-piperidin-4-yl)-piperazin-1-yl]-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 2.46 mmol, 1.77 g | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1CCN(CC1)CC(=O)OCC)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C39H54N6O7
solvent | water | 5 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (R)-2-[4-(1-carboxymethyl-piperidin-4-yl)-piperazin-1-yl]-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1CCN(CC1)CC(=O)O)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C37H50N6O7
